US05866566
10-acetyloxyimino-10,11-dihydro-5H-dibenz[b,f]azepine-5-carboxamide
A suspension of 0.5 g (1.87 mmol) of 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide in 25 mL of dichloromethane and 0.72 g (9.16 mmol) of pyridine was treated with 0.57 g (5.61 mmol) of acetic anhydride. The resulting mixture was stirred at room temperature overnight and then diluted with 10 mL of dichloromethane. The organic phase was extracted with 20 mL of 1M aqueous HCl, a saturated solution of NaHCO3 and brine, then dried by sodium sulphate. The solvent was then removed by evaporation under reduced pressure and the crude product was crystallised from a mixture of dichloromethane and ethyl acetate to give the desired product as white crystals of m.p. 175.8°-176.9° C.

reactant | 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide | 1.87 mmol, 0.5 g | ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H13N3O2
reactant | pyridine | 9.16 mmol, 0.72 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5.61 mmol, 0.57 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 10-acetyloxyimino-10,11-dihydro-5H-dibenz[b,f]azepine-5-carboxamide | C(C)(=O)ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C17H15N3O3
